US07915348B2
Examples of suitable isocyanates include, but are not limited to, the following: trimethylene diisocyanates; tetramethylene diisocyanates; pentamethylene diisocyanates; hexamethylene diisocyanates; ethylene diisocyanates; diethylidene diisocyanates; propylene diisocyanates; butylene diisocyanates; bitolylene diisocyanates; tolidine isocyanates; isophorone diisocyanates; dimeryl diisocyanates; dodecane-1,12-diisocyanates; 1,10-decamethylene diisocyanates; cyclohexylene-1,2-diisocyanates; 1-chlorobenzene-2,4-diisocyanates; furfurylidene diisocyanates; 2,4,4-trimethyl hexamethylene diisocyanates; 2,2,4-trimethyl hexamethylene diisocyanates; dodecamethylene diisocyanates; 1,3-cyclopentane diisocyanates; 1,3-cyclohexane diisocyanates; 1,3-cyclobutane diisocyanates; 1,4-cyclohexane diisocyanates; 4,4′-methylenebis(cyclohexyl isocyanates); 4,4′-methylenebis(phenyl isocyanates); 1-methyl-2,4-cyclohexane diisocyanates; 1-methyl-2,6-cyclohexane diisocyanates; 1,3-bis (isocyanato-methyl)cyclohexanes; 1,6-diisocyanato-2,2,4,4-tetra-methylhexanes; 1,6-diisocyanato-2,4,4-tetra-trimethylhexanes; trans-cyclohexane-1,4-diisocyanates; 3-isocyanato-methyl-3,5,5-trimethylcyclohexyl isocyanates; 1-isocyanato-3,3,5-trimethyl-5-isocyanatomethylcyclohexanes; cyclohexyl isocyanates; dicyclohexylmethane 4,4′-diisocyanates; 1,4-bis(isocyanatomethyl)cyclohexanes; m-phenylene diisocyanate; m-xylylene diisocyanate; m-tetramethylxylylene diisocyanates; p-phenylene diisocyanate; p,p′-biphenyl diisocyanates; 3,3′-dimethyl-4,4′-biphenylene diisocyanates; 3,3′-dimethoxy-4,4′-biphenylene diisocyanates; 3,3′-diphenyl-4,4′-biphenylene diisocyanates; 4,4′-biphenylene diisocyanates; 3,3′-dichloro-4,4′-biphenylene diisocyanates; 1,5-naphthalene diisocyanates; 4-chloro-1,3-phenylene diisocyanates; 1,5-tetrahydronaphthalene diisocyanates; meta-xylene diisocyanates; 1,3-xylene diisocyanate; 2, 4 or 2,6-toluene diisocyanates; 2,4′-diphenylmethane diisocyanates; 2,4-chlorophenylene diisocyanates; p,p′-perhydrodiphenylmethane-2,4′-diisocyanate; perhydrodiphenylmethane-4,4′-diisocyanate; hexahydrophenylene-1,3-diisocyanate; hexahydrophenylene-1,4-diisocyanate; 4,4′-diphenylmethane diisocyanates; p,p′-diphenylmethane diisocyanate; 2,4-tolylene diisocyanates; 2,6-tolylene diisocyanates; 2,2-diphenylpropane-4,4′-diisocyanate; 4,4′-toluidine diisocyanates; dianisidine diisocyanates; 4,4′-diphenyl ether diisocyanates; 1,3-xylylene diisocyanates; 1,4-naphthylene diisocyanates; azobenzene-4,4′-diisocyanates; diphenyl sulfone-4,4′-diisocyanates; triphenylmethane 4,4′,4″-triisocyanates; isocyanatoethyl methacrylates; 3-isopropenyl-α,α-dimethylbenzyl-isocyanates; dichlorohexamethylene diisocyanates; ω,ω′-diisocyanato-1,4-diethylbenzenes; polymethylene polyphenylene polyisocyanates; polybutylene diisocyanates; arylaliphatic diisocyanates such as perchlorinated aryl polyisocyanates; polyphenylpolymethylene polyisocyanates obtained by aniline formaldehyde condensation followed by phosgenation; m- and p-isocyanatophenyl-sulphonyl isocyanates; and isocyanurate-, carbodiimide and biuret modified compounds of the above polyisocyanates. Each isocyanate may be used either alone or in combination with one or more other isocyanates.

reactant | m-phenylene diisocyanate | C1(=CC(=CC=C1)N=C=O)N=C=O | C8H4N2O2
reactant | m-xylylene diisocyanate | C1(=CC(=CC=C1)CN=C=O)CN=C=O | C10H8N2O2
reactant | p-phenylene diisocyanate | C1(=CC=C(C=C1)N=C=O)N=C=O | C8H4N2O2
reactant | 1,3-xylene diisocyanate | [N-]=C=O.[N-]=C=O.C1(=CC(=CC=C1)C)C
reactant | p,p′-diphenylmethane diisocyanate | C1=CC(=CC=C1CC2=CC=C(C=C2)N=C=O)N=C=O | C15H10N2O2
product | aniline formaldehyde | N(C1=CC=CC=C1)C=O | C7H7NO
